US04474754
To 1.50 g of Z-Leu-Leu-Ala-Gln-OH was added 20 ml of acetic acid containing 25% of hydrogen bromide, then the mixture was stirred at a room temperature for 1 hour. To the reaction mixture was added dried ether, and solid material precipitated was collected by filtration to obtain H-Leu-Leu-Ala-Gln-OH.

reactant | Z-Leu-Leu-Ala-Gln-OH | 1.50 g | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C28H43N5O8
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen bromide | Br | BrH
solvent | ether | CCOCC | C4H10O
product | H-Leu-Leu-Ala-Gln-OH | N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)O | C20H37N5O6
